US08217179B2
(1) Synthesis of ethyl 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylate
To a 500 mL flask, ethyl 3-bromo-1-(3-chloro-2-pyridinyl)-4,5-dihydro-1H-pyrazole-5-carboxylate (20.00 g, 90%, 54.12 mmol), potassium persulfate (23.40 g, 86.60 mmol) and acetonitrile (180 mL) were added. The reaction mixture was stirred at room temperature. The sulfuric acid (10.82 g, 108.24 mmol) was added dropwise slowly. After added completely, the reaction mixture was heated to reflux for 2 hours. The reaction mixture was concentrated by rotary evaporator to remove most acetonitrile. Water (100 mL) was added and the reaction mixture was extracted with ethyl acetate (3×150 mL). The combined organic layers were washed with saturated sodium bicarbonate solution (100 mL) and saturated brine (100 mL), dried over anhydrous magnesium sulfate and concentrated by rotary evaporator to give the product (18.73 g) as a yellow solid in 89% yield. HPLC area normalization method content is 85%.

reactant | ethyl 3-bromo-1-(3-chloro-2-pyridinyl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 54.12 mmol, 20.00 g | BrC1=NN(C(C1)C(=O)OCC)C1=NC=CC=C1Cl | C11H11BrClN3O2
reactant | potassium persulfate | 86.60 mmol, 23.40 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sulfuric acid | 108.24 mmol, 10.82 g | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | ethyl 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylate | 18.73 g, 89% yield | BrC1=NN(C(=C1)C(=O)OCC)C1=NC=CC=C1Cl | C11H9BrClN3O2
